US08981095B2
Preparation of 3-(1-piperazinyl)-1,2-benzisothiazole (17)
Crude 3-[bis(hydroxyethyl)]amino-1,2-benzisothiazole (6.0 mmol) was dissolved in 20 ml of acetonitrile and triethylamine (18 mmol). Methanesulfonyl chloride (13 mmol) was dropwise added at 0-4° C. The resulting mixture was stirred at this temperature for 1 hour and at room temperature for 3-5 hours. The reaction mixture was washed with water, dried over sodium sulfate and concentrated. The residue was dissolved in methanol-ammonium hydroxide solution and heated to reflux. After 20-24 hours at reflux, the solution was sampled for thin-layer chromatography (elution with methylene chloride/isopropanol/triethylamine, 15:5:1) which showed that the reaction was complete. Half volume of methanol was evaporated under reduced pressure and water (30 mL) was added, following by toluene (50 ml). Then the separated aqueous layer was washed with fresh toluene (10 ml). The combined toluene layers were washed with water (20 ml) and then treated with decolorizing carbon. The mixture was heated to reflux and filtered hot through celite. The celite cake was rinsed with toluene (10 mL), and the combined washing and filtrate were concentrated at reduced pressure to 10 mL. Isopropanol (22 ml) was added to the concentrate and the yellowish solution was cooled to 20° C. The pH of the solution was slowly adjusted to 3.5-4.0 with of concentrated hydrochloric acid. The resulting slurry was cooled to 0-5° C., stirred for 1 hour, and then filtered. The product was washed with cold isopropanol and dried in vacuum at 40° C. for 24 hours. The title compound (4.32 mmol) was isolated as a light yellow solid in 71% yield (>98.5% purity).

reactant | 3-[bis(hydroxyethyl)]amino-1,2-benzisothiazole | 6.0 mmol | OCCN(C1=NSC2=C1C=CC=C2)CCO | C11H14N2O2S
reactant | triethylamine | 18 mmol | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 13 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-(1-piperazinyl)-1,2-benzisothiazole | 4.32 mmol, 71% yield | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
